US06683090B1
(S)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(E-3-phenylpropenamide)
Prepared as free base by a method analogous to that described in Example 1 from (S)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride and E-3-phenylpropenoic acid; MS (ES+) 257 (MH+).

reactant | (S)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride | Cl.Cl.N12C[C@H](C(CC1)CC2)N
reactant | E-3-phenylpropenoic acid | C1(=CC=CC=C1)/C=C/C(=O)O | C9H8O2
product | (S)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(E-3-phenylpropenamide) | N12C[C@H](C(CC1)CC2)NC(\C=C\C2=CC=CC=C2)=O | C16H20N2O
